US06511978B1
36-2) Preparation of 1-(bromomethyl)-3-chloronaphthalene
Carbon tetrachloride(30 ml) was added to 3-Chloro-1-methyl-naphthalene(2.55 g, 14.4 mmol) prepared in Preparation 36-1) and NBS (2.82 g, 15.8 mmol). A small quantity of benzoylperoxide was added as an initiator and the resulting mixture was heated under reflux for 3 hours. The reaction solution was cooled and filtered to remove the insoluble solid. The filtrate was concentrated and subjected to column chromatography(eluent: hexane/ethylacetate=95/5, v/v) to give 3.10 g(12.1 mmol, Yield 84%) of the title compound.

reactant | Carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-Chloro-1-methyl-naphthalene | 14.4 mmol, 2.55 g | ClC=1C=C(C2=CC=CC=C2C1)C | C11H9Cl
reactant | NBS | 15.8 mmol, 2.82 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
product | 1-(bromomethyl)-3-chloronaphthalene | 12.1 mmol, 3.10 g, Yield 84% | BrCC1=CC(=CC2=CC=CC=C12)Cl | C11H8BrCl
